US03951640
Preparation of N-(2-Trifluoromethyl-1,3,4-thiadiazol-5-yl)-N'-(1,3-dioxolan-2-ylmethyl)-N'-methylurea
2-Trifluoromethyl-1,3,4-thiadiazol-5-yl isocyanate dimer (3.1 grams) was added to a solution of N-(1,3-dioxolan-2-ylmethyl)-N-methylamine (2grams) in benzene (10 ml) contained in a glass reaction vessel equipped with a mechanical stirrer and thermometer. The mixture was heated on a steam bath for a period of about 1 hour. The mixture was then stripped of solvent under reduced pressure to yield a solid residue. The residue was recrystallized from an ether-pentane mixture to yield the desired product N-(2-trifluoromethyl-1,3,4-thiadiazol-5-yl)-N'-(1,3-dioxolan-2-ylmethyl)-N'-methylurea having a melting point of 114° to 115°C.

reactant | 2-Trifluoromethyl-1,3,4-thiadiazol-5-yl isocyanate | FC(C=1SC(=NN1)N=C=O)(F)F | C4F3N3OS
reactant | N-(1,3-dioxolan-2-ylmethyl)-N-methylamine | 2grams | O1C(OCC1)CNC | C5H11NO2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-(2-trifluoromethyl-1,3,4-thiadiazol-5-yl)-N'-(1,3-dioxolan-2-ylmethyl)-N'-methylurea | FC(C=1SC(=NN1)NC(=O)N(C)CC1OCCO1)(F)F | C9H11F3N4O3S
